* lm386 subcircuit model follows:
 
************************************original* IC pins:     2   3   7   1   8   5   6   4
* IC pins:     1   2   3   4   5   6   7   8
*              |   |   |   |   |   |   |   |
.subckt lm386 g1  inn inp gnd out  vs byp g8
************************************original*.subckt lm386 inn inp byp  g1  g8 out  vs gnd
 
* input emitter-follower buffers:
 
q1 gnd inn 10011 ddpnp
r1 inn gnd 50k
q2 gnd inp 10012 ddpnp
r2 inp gnd 50k
 
* differential input stage, gain-setting
* resistors, and internal feedback resistor:
 
q3 10013 10011 10008 ddpnp
q4 10014 10012 g1 ddpnp
r3 vs byp 15k
r4 byp 10008 15k
r5 10008 g8 150
r6 g8 g1 1.35k
r7 g1 out 15k
 
* input stage current mirror:
 
q5 10013 10013 gnd ddnpn
q6 10014 10013 gnd ddnpn
 
* voltage gain stage & rolloff cap:
 
q7 10017 10014 gnd ddnpn
c1 10014 10017 15pf
 
* current mirror source for gain stage:
 
i1 10002 vs dc 5m
q8 10004 10002 vs ddpnp
q9 10002 10002 vs ddpnp
 
* Sziklai-connected push-pull output stage:
 
q10 10018 10017 out ddpnp
q11 10004 10004 10009 ddnpn 100
q12 10009 10009 10017 ddnpn 100
q13 vs 10004 out ddnpn 100
q14 out 10018 gnd ddnpn 100
 
* generic transistor models generated
* with MicroSim's PARTs utility, using
* default parameters except Bf:
 
.model ddnpn NPN(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=400 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)
 
.model ddpnp PNP(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=200 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)
 
.ends